US05206375
93.3 parts of 2-amino-4-chloro-3-cyano-5-formylthiophene, 126 parts of sodium sulfite and 300 parts of water are heated at the boil for 2 hours, after which 200 parts of concentrated hydrochloric acid are added to the ice-cooled mixture, and the mixture is left to stand overnight. Thereafter, the mixture is filtered under suction, and the residue is washed with a little ice water and dried. 85 parts (67% of theory) of sodium 2-amino-3-cyano-5-formylthien-4-ylsulfonate are obtained.

reactant | 2-amino-4-chloro-3-cyano-5-formylthiophene | NC=1SC(=C(C1C#N)Cl)C=O | C6H3ClN2OS
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | sodium 2-amino-3-cyano-5-formylthien-4-ylsulfonate | 67% | NC=1SC(=C(C1C#N)S(=O)(=O)[O-])C=O.[Na+] | InChI=1S/C6H4N2O4S2.Na/c7-1-3-5(14(10,11)12)4(2-9)13-6(3)8;/h2H,8H2,(H,10,11,12);/q;+1/p-1
